US04069385
A mixture of 0.225 g of (S)-(+)-N-salicylidene-1 -phenylethylamine, 0.009 g of cuprous chloride, 20 ml of cyclohexene, 10 ml of acetonitrile and 5 ml of t-butyl peroxybenzoate was heated with stirring at 70° C for 32 hours in a nitrogen atmosphere. Thereafter, the reaction mixture was treated in the same manner as in Example 1 to obtain 3.75 g of 2-cyclohexenyl benzoate.

reactant | (S)-(+)-N-salicylidene-1 -phenylethylamine | 0.225 g | C(C=1C(O)=CC=CC1)=N[C@@H](C)C1=CC=CC=C1 | C15H15NO
reactant | cyclohexene | 20 ml | C1=CCCCC1 | C6H10
reactant | t-butyl peroxybenzoate | 5 ml | C(C1=CC=CC=C1)(=O)OOC(C)(C)C | C11H14O3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-cyclohexenyl benzoate | 3.75 g | C(C1=CC=CC=C1)(=O)OC1C=CCCC1 | C13H14O2
